US04113715
1-(5-Amino-2-mercaptomethylpentanoyl)-L-proline
1-(2-Acetylthiomethyl-5-aminopentanoyl)-L-proline trifluoroacetate (1 g) is dissolved in a mixture of water (12 ml) and concentrated ammonia (12 ml) under a blanket of argon. The solution is stored twenty minutes at room temperature concentrated to 5 ml and applied to a column of Dowex 50 ion exchange resin in the hydrogen cycle. The column is washed with water and 1-(5-amino-2-mercaptomethylpentanoyl)-L-proline is eluted with a buffer of pyridine-acetic acid at pH 6.5.

reactant | 1-(2-Acetylthiomethyl-5-aminopentanoyl)-L-proline trifluoroacetate | 1 g | FC(C(=O)O)(F)F.C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CCCN
solvent | water | 12 ml | O | H2O
solvent | ammonia | 12 ml | N | H3N
product | 1-(5-Amino-2-mercaptomethylpentanoyl)-L-proline | NCCCC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C11H20N2O3S
